US06683211B1
Sodium methoxide (32 ml of a 5.4 M solution in methanol, 0.17 mol) is added to a solution of N-[2-(4-hydroxy-3-methoxy-phenyl)-ethyl]-formamide (32 g, 0.16 mol) in methanol (400 ml). Propargyl bromide (20 g, 0.17 mol) is added and the mixture is refluxed for 4 hours. After evaporation the residue is taken up in ethyl acetate (400 ml) and washed with water (2×200 ml). The organic layer is dried over magnesium sulfate and evaporated. The residue is submitted to flash-chromatography to give the N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-formamide. 1H-NMR (300 MHz, CDCl3): 2.44 (t, 1H, C≡CH), 2.73 (t, 2H, CH2CH2), 3.51 (t, 2H, CH2CH2), 3.82 (s, 3H, OCH3), 4.69 (m, 2H, OCH2), 5.53 (bs, 1H, NH), 6.62-6.95 (m, 3H, CH arom.), 8.09 (s, 1H, CHO).

reactant | Sodium methoxide | C[O-].[Na+]
reactant | N-[2-(4-hydroxy-3-methoxy-phenyl)-ethyl]-formamide | 0.16 mol, 32 g | OC1=C(C=C(C=C1)CCNC=O)OC | C10H13NO3
reactant | Propargyl bromide | 0.17 mol, 20 g | C(C#C)Br | C3H3Br
solvent | methanol | CO | CH4O
solvent | methanol | 400 ml | CO | CH4O
product | N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-formamide | COC=1C=C(C=CC1OCC#C)CCNC=O | C13H15NO3
